US04661489
2-Benzyl-4-oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine
1-(2-Phenoxyethyl)-4-benzyl-2-hydroxy-6-oxopiperazine (4 g) was added to concentrated sulphuric acid (50 ml) at 0°-10° and the mixture stirred for 30 min. The resulting solution was poured onto ice, basified with NH4OH and extracted with chloroform to give the title compound as a pale oil (2 g).

reactant | 1-(2-Phenoxyethyl)-4-benzyl-2-hydroxy-6-oxopiperazine | 4 g | O(C1=CC=CC=C1)CCN1C(CN(CC1=O)CC1=CC=CC=C1)O | C19H22N2O3
reactant | NH4OH | [NH4+].[OH-]
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Benzyl-4-oxo-1,2,3,6,7,12b-hexahydropyrazino[1,2-d][1,4]benzoxazepine | 2 g | C(C1=CC=CC=C1)N1CC2N(CCOC3=C2C=CC=C3)C(C1)=O | C19H20N2O2
